US08735586B2
1,2-Diphenyl-1H-benzimidazole
The title compound was prepared with the analogous procedure described in example 1 using 1-Iodo-2-nitrobenzene (125 mg, 0.5 mmol) and benzanilide (118 mg, 0.6 mmol) as starting materials to yield the title compound as pale yellow solid (95 mg, 70%). mp 105-107° C. 1H NMR (DMSO) δ 7.24 (d, J=7.9 Hz, 1 H), 7.35-7.62 (m, 12 H), 7.84 (d, J=7.6 Hz, 1 H); 13C NMR δ 111.0, 118.1, 123.7, 124.1, 127.5, 127.9, 128.4, 129.2, 129.3, 130.0, 130.2, 135.5, 136.2, 139.3, 151.3. HRMS (FAB): cal. for C19H15N2 [M+H+]: 271.1235; found: 271.1230.

reactant | 1-Iodo-2-nitrobenzene | 0.5 mmol, 125 mg | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | benzanilide | 0.6 mmol, 118 mg | C(C1=CC=CC=C1)(=O)NC1=CC=CC=C1 | C13H11NO
product | 1,2-Diphenyl-1H-benzimidazole | 95 mg, 70% | C1(=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C2=CC=CC=C2 | C19H14N2
